US07763609B2
To a solution of (S)-2-(tert-butoxycarbonyl)-1,4-dimethyl-6-oxo-hexahydropyrimidine-4-carbohydrazide (CY1, R6=Me, 0.030 g, 0.10 mmol) in DCM (0.25 mL) was added 3-chlorophenylisocyanate (0.015 mL, 0.20 mmol, 2 eq). The mixture was stirred at RT for 3 h and volatiles were then removed in vacuo. The residue was treated with TsCl (0.020 g, 0.10 mmol, 1 eq), Et3N (0.083 mL, 0.60 mmol, 6 eq), and DMAP (0.002 g, 0.016 mmol, 0.16 eq) in DCM (0.25 mL) at RT for 16 h. The mixture was diluted with DCM (20 mL), washed with H2O (10 mL) and saturated brine (10 mL), and concentrated in vacuo. The residue was treated with 30% TFA/DCM (1 mL) at RT for 1 h. The mixture was concentrated in vacuo and the residue was purified on reverse phase HPLC (B) to give 0.006 g (10%) of (S)-6-(5-(3-chlorophenylamino)-1,3,4-oxadiazol-2-yl)-2-imino-3,6-dimethyl-tetrahydropyrimidin-4(1H)-one (DA1; R6=Me). 1HNMR (CD3OD, 300 MHz): δ 7.78 (t, 1H), 7.47 (m, 2H), 7.17 (dt, 1H), 3.53 (m, 2H), 3.36 (s, 3H), 1.78 (s, 3H). MS (ESI): MH+=335.3, HPLC (A) Rt=5.710 min.

reactant | (S)-2-(tert-butoxycarbonyl)-1,4-dimethyl-6-oxo-hexahydropyrimidine-4-carbohydrazide | 0.10 mmol, 0.030 g | C(C)(C)(C)OC(=O)[C@@H]1N(C(CC(N1)(C(=O)NN)C)=O)C | C12H22N4O4
reactant | 3-chlorophenylisocyanate | 0.20 mmol, 0.015 mL, 2 eq | ClC=1C=C(C=CC1)N=C=O | C7H4ClNO
reactant | TsCl | 0.10 mmol, 0.020 g, 1 eq | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | Et3N | 0.60 mmol, 0.083 mL, 6 eq | CCN(CC)CC | C6H15N
solvent | DCM | 0.25 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.016 mmol, 0.002 g, 0.16 eq | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 0.25 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (S)-6-(5-(3-chlorophenylamino)-1,3,4-oxadiazol-2-yl)-2-imino-3,6-dimethyl-tetrahydropyrimidin-4(1H)-one | 0.006 g, 10% | ClC=1C=C(C=CC1)NC1=NN=C(O1)[C@@]1(CC(N(C(N1)=N)C)=O)C | C14H15ClN6O2
